US07323475B2
a) 7-Bromo-1-chloro-4-hydroxy-isoquinoline-3-carboxylic acid butyl ester
170 mg (0.5 mmol) of 7-bromo-1,4-dihydroxy-isoquinoline-3-carboxylic acid butyl ester (from Example D-21c) was dissolved in 2 ml of anhydrous acetonitrile. Phosphorous oxychloride (536 mg, 3.5 mmol) was added and the resulting mixture was stirred at reflux for 4 h. After cooling, the mixture was concentrated and the residue was taken into ethyl acetate. Ethyl acetate mixture was poured into saturated sodium bicarbonate solution with efficient stirring for 1 h. Two phases were separated. Aqueous layer was extracted with ethyl acetate. Combined organic layer was dried over magnesium sulfate, filtered and concentrated. Crude product was purified by silica gel chromatography eluting with methylene chloride to give 78 mg of product as white solid. MS-(+)-ion: M+1=359.96, 357.98

reactant | 7-bromo-1,4-dihydroxy-isoquinoline-3-carboxylic acid butyl ester | 0.5 mmol, 170 mg | C(CCC)OC(=O)C=1N=C(C2=CC(=CC=C2C1O)Br)O | C14H14BrNO4
reactant | Phosphorous oxychloride | 3.5 mmol, 536 mg | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | 7-Bromo-1-chloro-4-hydroxy-isoquinoline-3-carboxylic acid butyl ester | 78 mg | C(CCC)OC(=O)C=1N=C(C2=CC(=CC=C2C1O)Br)Cl | C14H13BrClNO3
